US08211923B2
(2) 1-methyl-6-nitro-1H-indazole-3-carboxylic acid-methylamide
is obtained by reacting a mixture of 1-methyl-6-nitro-1H-indazole-3-carboxylic acid and 2-methyl-6-nitro-2H-indazole-3-carboxylic acid. The product is purified by chromatography on silica gel.

reactant | 1-methyl-6-nitro-1H-indazole-3-carboxylic acid | CN1N=C(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)O | C9H7N3O4
reactant | 2-methyl-6-nitro-2H-indazole-3-carboxylic acid | CN1N=C2C=C(C=CC2=C1C(=O)O)[N+](=O)[O-] | C9H7N3O4
product | 1-methyl-6-nitro-1H-indazole-3-carboxylic acid-methylamide | CNC(=O)C1=NN(C2=CC(=CC=C12)[N+](=O)[O-])C | C10H10N4O3
